US05939435
1-(Benzoyl)-6-chloro-1,2-dihydro-quinoline-2-carbonitrile
A solution of 6-chloroquinoline (9.5 g), benzoyl chloride (13.2 g) in methylene chloride (50 mL) was treated with AlCl3 (0.10 g) followed by dropwise addition of trimethyl silyl cyanide (12.5 mL). After 0.5 hour, the mixture was diluted with 150 mL of methylene chloride and washed with water, 1N HCl, saturated sodium bicarbonate (aq.), and brine. The organic phase was dried over magnesium sulfate then evaporated to dryness. The residue was purified by column chromatography on silica gel using ethyl acetate/hexane (3:7) as the eluting solvent. The title compound (13 g) was obtained as a white solid, m.p. 141-143° C. This product was used for the preparation of the title compound described in step 2.

reactant | 6-chloroquinoline | 9.5 g | ClC=1C=C2C=CC=NC2=CC1 | C9H6ClN
reactant | benzoyl chloride | 13.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | trimethyl silyl cyanide | 12.5 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | AlCl3 | 0.10 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | 1-(Benzoyl)-6-chloro-1,2-dihydro-quinoline-2-carbonitrile | 13 g | C(C1=CC=CC=C1)(=O)N1C(C=CC2=CC(=CC=C12)Cl)C#N | C17H11ClN2O
